US06262089B1
b) Mixture of (E)-(2R,5S)- and -(2RS,5SR)-2,5-dibutyl-hex-3-enedioic acid
To a stirred solution of 435 mg (1.39 mmol) mixture of (E)-(2R,5S)- and -(2RS,5SR)-2,5-dibutyl-hex-3-enedioic acid diethyl ester in 10 ml THF was added 26 ml (26 mmol) of 1 M sodium hydroxide solution. After stirring for 72 h at room temperature, the reaction mixture was acidified to pH 3 by addition of 1 M hydrochloric acid and extracted three times with ethyl acetate. The combined organic phases were washed successively with water and with saturated brine, dried over sodium sulphate, and concentrated in vacuo to afford 346 mg (97%) of the title compound as a white crystalline solid. MS m/e (%): 255 ([M−H]−, 60), 211 ([M−H—CO2]−, 100).

reactant | (2RS,5SR)-2,5-dibutyl-hex-3-enedioic acid diethyl ester | C(C)OC(C(C=CC(C(=O)OCC)CCCC)CCCC)=O | C18H32O4
reactant | sodium hydroxide | 26 mmol, 1 M, 26 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (2RS,5SR)-2,5-dibutyl-hex-3-enedioic acid | 346 mg, 97% | C(CCC)C(C(=O)O)C=CC(C(=O)O)CCCC | C14H24O4
